US04564694
Next, 195 g of AlCl3 and 100 g of 3-methoxypropylbenzene were poured into 1.5 liters of CH2Cl2, and the resulting mixture was cooled with ice under stirring. Thereto was gradually added dropwise 79 g of acetyl chloride (CH3COCl), and the thus obtained mixture was stirred under ice-cooling continuously for 6 hours. After the termination of the evolution of hydrogen chloride (HCl) gas was ascertained, the reaction solution was poured into 1 liter of dilute hydrochloric acid, and the CH2Cl2 layer was separated, after which the CH2Cl2 was distilled off, and the residue was distilled under reduced pressure to obtain p-(3-methoxypropyl)acetophenone. The boiling point of this compound was 94-95° C./0.3 mmHg.

reactant | AlCl3 | 195 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | 3-methoxypropylbenzene | 100 g | COCCCC1=CC=CC=C1 | C10H14O
reactant | acetyl chloride | 79 g | C(C)(=O)Cl | C2H3ClO
reactant | hydrogen chloride | Cl | ClH
reactant | hydrochloric acid | 1 liter | Cl | ClH
solvent | CH2Cl2 | 1.5 liters | C(Cl)Cl | CH2Cl2
product | p-(3-methoxypropyl)acetophenone | COCCCC1=CC=C(C=C1)C(C)=O | C12H16O2
